US08497368B2
(6-Chloroimidazo[1,2-b]pyridazin-3-yl)(1-methyl-1H-indazol-5-yl)methanone (71.1)
A suspension of (6-chloroimidazo[1,2-b]pyridazin-3-yl)(1-methyl-1H-indazol-5-yl)methanol (500.0 mg, 1.60 mmol) and 2-Iodoxybenzoic acid (45% pure, 1488.0 mg, 2.39 mmol) in 10 mL acetone was heated at refluxe and stirred for 3 hours. Solvent was removed under reduced pressure. The residue was diluted with water, and the pH value of the solution adjusted to around 10 with 10% aqueous NaOH. The precipitates were collected by filtration and washed with water three times. The solid was dissolved in DCM, dried over Na2SO4, filtered and concentrated to give the title compound as a white solid (410.0 mg, 78%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.46 (s, 1H), 8.42 (m, 1H), 8.32 (m, 1H), 8.27 (d, 1H), 7.95 (dd, 1H), 7.815 (d, 1H), 7.66 (d, 1H), 4.12 (s, 2H). LCMS (method A): [MH]+=312, tR=4.64 min.

reactant | (6-chloroimidazo[1,2-b]pyridazin-3-yl)(1-methyl-1H-indazol-5-yl)methanol | 1.60 mmol, 500.0 mg | ClC=1C=CC=2N(N1)C(=CN2)C(O)C=2C=C1C=NN(C1=CC2)C | C15H12ClN5O
reactant | 2-Iodoxybenzoic acid | 2.39 mmol, 1488.0 mg | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (6-Chloroimidazo[1,2-b]pyridazin-3-yl)(1-methyl-1H-indazol-5-yl)methanone | 410.0 mg, 78% | ClC=1C=CC=2N(N1)C(=CN2)C(=O)C=2C=C1C=NN(C1=CC2)C | C15H10ClN5O
